US06982278B2
To a 0° C. solution of 2-(4-{2-[2-(4-hydroxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy)-phenoxy}-2-methyl-propionic acid ethyl ester (0.60 g, 1.41 mmol), cyclohexanol (0.212 g, 2.11 mmol) and triphenyl phosphine (0.55 g, 2.10 mmol) in THF (18 mL) was added diisopropyl azodicarboxylate (0.43 g, 2.12 mmol) in THF (2 mL). The reaction was warmed to room temperature and stirred under N2 for 18 h. Silica gel was added directly to the reaction mixture and the solvent removed in vacuo to absorb the crude product onto the silica gel. The crude product was then purified by flash chromatography (3/1 hexanes/EtOAc) to afford 0.339 g (47%) 2-(4-{2-[2-(4-cyclohexyloxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester. 1H NMR (500 MHz, CDCl3) δ 7.94-7.85 (m, 2H), 6.92 (d, 2H, J=9.0 Hz), 6.82-6.75 (m, 4H), 4.32-4.23 (m, 1H), 4.21-4.16 (m, 4H), 2.98-2.90 (m, 2H), 2.39 (s, 3H), 2.05-1.95 (m, 2H), 1.85-1.78 (m, 2H), 1.62-1.51 (m, 3H), 1.52 (s, 6H), 1.42-1.25 (m, 3H), 1.27 (t, 3H, J=7.23 Hz); MS (ES+) Calc'd for C30H38NO6: Found m/e 508.3 (M+1, 100%).

reactant | 2-(4-{2-[2-(4-hydroxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy)-phenoxy}-2-methyl-propionic acid ethyl ester | 1.41 mmol, 0.60 g | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)O)=O | C24H27NO6
reactant | cyclohexanol | 2.11 mmol, 0.212 g | C1(CCCCC1)O | C6H12O
reactant | triphenyl phosphine | 2.10 mmol, 0.55 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 2.12 mmol, 0.43 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 18 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-(4-{2-[2-(4-cyclohexyloxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester | 0.339 g, 47% | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)OC1CCCCC1)=O | C30H37NO6
